US09145433B2
To the stirring solution of 7-bromo-6-(4-fluoro-3-methylphenyl)-1-methyl-1H-pyrido[2,3-b][1,4]oxazin-2(3H)-one (595 mg) and THF (15 mL) under argon was added BH3.THF (5.1 mL, 1N solution in THF) dropwise for 20 min. After 12 h, the reaction mixture was cooled in ice-bath and transferred 1N aq. HCl (16 mL). Subsequently, cooling bath was removed and heated at 80° C. for 1 h. The reaction mixture was concentrated, basified with aq. NaHCO3 solution and extracted with EtOAc (2×125 mL). Workup of the combined organic layers followed by flash column chromatographic purification (Combiflash® companion System® with RediSep® silica gel column 24 g and 30-50% EtOAc/hexanes eluting solvent) provided 450 mg of 7-bromo-6-(4-fluoro-3-methylphenyl)-1-methyl-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine as an off-white solid. 1H NMR (300 MHz, DMSO-d6): δ 7.45-7.32 (m, 2H), 7.21 (s, 1H), 7.13 (dd, J=9.8, 8.5 Hz, 1H), 4.59-4.21 (m, 2H), 3.47-3.25 (m, 2H), 2.88 (s, 3H), 2.25 (d, J=1.9 Hz, 3H). 19F NMR (282 MHz, DMSO-d6) δ −118.92 (m).

reactant | 7-bromo-6-(4-fluoro-3-methylphenyl)-1-methyl-1H-pyrido[2,3-b][1,4]oxazin-2(3H)-one | 595 mg | BrC1=CC2=C(OCC(N2C)=O)N=C1C1=CC(=C(C=C1)F)C | C15H12BrFN2O2
reactant | BH3.THF | 1N, 5.1 mL | B.C1CCOC1
reactant | HCl | 1N, 16 mL | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 7-bromo-6-(4-fluoro-3-methylphenyl)-1-methyl-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine | 450 mg | BrC1=CC2=C(OCCN2C)N=C1C1=CC(=C(C=C1)F)C | C15H14BrFN2O
